US06121202
Preparation of Methyl 3-Hydroxy-5-trifluoromethyl-2-thiophenecarboxylate
A solution of ethyl 3-methoxy-4,4,4-trifluoro-2-buteneoate (48.45 g, 0.245 mol) and methyl thioglycolate (25.95 g, 0.245 mole) in methanol is treated dropwise with 300 mL, 1M KOH/methanol over a 45 minute period at 35-42° C. (external cooling is used to control exotherm) and stirred at ambient temperatures until reaction is complete by GC analysis. The resultant reaction mixture is poured onto ice water, acidified with 6N H2SO4 to pH 2 and extracted with ethyl acetate. The ethyl acetate extracts are combined, washed sequentially with saturated NaHCO3 and brine, dried over MgSO4 and concentrated in vacuo to give a pale yellow liquid residue. The residue is vacuum distilled to give the title product as a clear liquid, 39.06 g (71% yield), bp 42-45° C./0.10 mm Hg, identified by 1HNMR, 13CNMR and 19FNMR analyses.

reactant | ethyl 3-methoxy-4,4,4-trifluoro-2-buteneoate | 0.245 mol, 48.45 g | COC(=CC(=O)OCC)C(F)(F)F | C7H9F3O3
reactant | methyl thioglycolate | 0.245 mole, 25.95 g | C(CS)(=O)OC | C3H6O2S
reactant | KOH methanol | 1M, 300 mL | [OH-].[K+].CO
reactant | H2SO4 | 6N | OS(=O)(=O)O | H2O4S
solvent | methanol | CO | CH4O
product | Methyl 3-Hydroxy-5-trifluoromethyl-2-thiophenecarboxylate | 71% yield | OC1=C(SC(=C1)C(F)(F)F)C(=O)OC | C7H5F3O3S
